US09302989B2
6-(isoindoline-2-carboxamido)pyridazine-3-carboxylic acid
To a solution of methyl 6-(isoindoline-2-carboxamido)pyridazine-3-carboxylate (3.7 g, 12.4 mmol) in MeOH (40 mL) and THF (40 mL), a solution of LiOH (0.7 g, 29.2 mmol) in water (10 mL) was added at room temperature. The reaction mixture was stirred overnight at room temperature. The reaction mixture was poured into water (100 mL), extracted with EtOAc (2×50 mL) and the aqueous layer was acidified by addition of 2 NHCl to pH 3 to give a precipitate. The precipitate was washed with water and dried in high vacuum to give the title compound.

reactant | methyl 6-(isoindoline-2-carboxamido)pyridazine-3-carboxylate | 12.4 mmol, 3.7 g | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(N=N1)C(=O)OC | C15H14N4O3
reactant | LiOH | 29.2 mmol, 0.7 g | [Li+].[OH-]
solvent | MeOH | 40 mL | CO | CH4O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 6-(isoindoline-2-carboxamido)pyridazine-3-carboxylic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(N=N1)C(=O)O | C14H12N4O3
